US07919628B2
A solution of 50 mg 2-{[1-(5,6-dichloro-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester and 30 mg sodium ethoxide in 3 ml EtOH containing 5% of water was heated to 120° C. for 2 min using a microwave reactor. The reaction mixture was acidified to pH 4 with 2 M HCl and the precipitated solid was collected by filtration and purified by RP-HPLC to yield 40 mg 2-{[1-(5-chloro-6-ethoxy-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid.

reactant | 2-{[1-(5,6-dichloro-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 50 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=C(C1)Cl)Cl)=O | C22H20Cl2N2O4
reactant | sodium ethoxide | 30 mg | [O-]CC.[Na+]
reactant | water | O | H2O
reactant | HCl | 2 M | Cl | ClH
solvent | EtOH | 3 ml | CCO | C2H6O
product | 2-{[1-(5-chloro-6-ethoxy-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid | 40 mg | ClC=1C=C(C=NC1OCC)COC1=C(C=CC2=CC=CC=C12)C(=O)NC(C(=O)O)(C)C | C23H23ClN2O5
